US08137821B2
1.45 g (7.17 mmol) of dimethylhydroxymethyl-4-acetylphenylacetylene and 301 mg (7.53 mmol) of NaOH (KISHIDA CHEMICAL CO., Ltd., 0.7 mm granular, 98%) were placed in a 100 mL two-neck flask equipped with a reflux condenser and the air inside the flask was replaced with Ar. 36 mL of toluene was added thereto and the mixture was refluxed at 120° C. for 15 minutes. Toluene was added to the reaction mixture and the mixture was washed with a saturated aqueous ammonium chloride solution and dried over magnesium sulfate, followed by distilling off of the solvent under reduced pressure by an evaporator. Then, 25 mL of hexane was added to the resulting crude reaction product and the mixture was cooled to give 4-acetylphenylethyne as a yellow solid. (0.74 g, yield: 56%).

reactant | dimethylhydroxymethyl-4-acetylphenylacetylene | 7.17 mmol, 1.45 g | CC=1C(=C(C=CC1C(C)=O)C#CCO)C | C13H14O2
reactant | NaOH | 7.53 mmol, 301 mg | [OH-].[Na+]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 36 mL | C1(=CC=CC=C1)C | C7H8
product | 4-acetylphenylethyne | yield: 56% | C(C)(=O)C1=CC=C(C=C1)C#C | C10H8O
